US08293768B2
Synthesis of N-(benzo[d]thiazol-2-ylmethyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with benzo[d]thiazol-2-ylmethanamine, the title compound was obtained as a colorless solid in 81% yield: 1H NMR (300 MHz, CDCl3) δ 8.00 (d, J=8.0 Hz, 1H), 7.85 (d, J=8.0 Hz, 1H), 7.51-7.44 (m, 1H), 7.41-7.34 (m, 1H), 7.31-7.24 (m, 2H), 7.07-6.98 (m, 2H), 6.63 (t, J=5.5 Hz, 1H), 6.13 (s, 1H), 5.01 (d, J=5.5 Hz, 2H), 4.44 (s, 2H), 3.84-3.76 (m, 2H), 3.48-3.40 (m, 2H), 2.53 (s, 3H); MS (ES+) m/z 481.2 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | benzo[d]thiazol-2-ylmethanamine | S1C(=NC2=C1C=CC=C2)CN | C8H8N2S
product | N-(benzo[d]thiazol-2-ylmethyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide | 81% yield | S1C(=NC2=C1C=CC=C2)CNC(=O)C=2SC(=CC2C)N2C(N(CC2)CC2=CC=C(C=C2)F)=O | C24H21FN4O2S2
